US07834039B2
To a solution of benzyl 3-methyl-5,6-dihydroimidazo[1,2-a]pyrazine-7(8H)-carboxylate (1.085 g, 4.00 mmol) in 1,2-dichloroethane (60 ml) was added NIS (4.50 g, 20.00 mmol) and the reaction was heated at reflux for one hour. The reaction was cooled to room temperature and poured into 100 ml of saturated 5% sodium thiosulfate solution. The layers were separated and the aqueous layer was re-extracted with 1,2-dichloroethane (40 ml). The combined organic layers were washed with water (100 ml), dried over sodium sulfate, filtered and concentrated. Product was extracted from the residue by trituration with 3×50 ml portions of ether. The extract was filtered and concentrated to yield 2-Iodo-3-methyl-5,6-dihydro-8H-imidazo[1,2-a] pyrazine-7-carboxylic acid benzyl ester (1.42 g, 89%) as a pale yellow oil. LCMS (Table 1, Method a) Rt=3.32 min, m/z 398.59 (M+H)+; 1H NMR (400 MHz, CHCl3)δ 7.35 (m, 5H), 5.13 (s, 2H), 4.56 (s,broad, 2H), 4.38 (t, 2H), 3.82 (s, broad, 2H), 2.09 (s, 3H).

reactant | benzyl 3-methyl-5,6-dihydroimidazo[1,2-a]pyrazine-7(8H)-carboxylate | 4.00 mmol, 1.085 g | CC1=CN=C2N1CCN(C2)C(=O)OCC2=CC=CC=C2 | C15H17N3O2
reactant | NIS | 20.00 mmol, 4.50 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dichloroethane | 60 ml | ClCCCl | C2H4Cl2
product | 2-Iodo-3-methyl-5,6-dihydro-8H-imidazo[1,2-a] pyrazine-7-carboxylic acid benzyl ester | 1.42 g, 89% | C(C1=CC=CC=C1)OC(=O)N1CC=2N(CC1)C(=C(N2)I)C | C15H16IN3O2
